US05446060
Preparation of 4-(1-imidazolyl)-1-(2-thienyl)butanone hydrochloride (CRL 41703).
18.9 g (0.10 mol) of 4-chloro-1-(2-thienyl)butanone are run into a solution, maintained at about 90° C., of 15 g (0.22 mol) of imidazole in 35 ml of toluene, and the mixture is heated to reflux for 4 hours. The reaction medium is diluted with ethyl acetate and the mixture is washed with water and extracted with dilute hydrochloric acid solution.The aqueous phase is alkalinised with sodium hydroxide and extracted with ethyl acetate, which is dried over dry sodium sulphate. The solution is treated with a solution of hydrogen chloride in ethanol, and the insolublematter purified by a wash in acetone, to give 6 g of a water-soluble, beigepowder.

reactant | 4-chloro-1-(2-thienyl)butanone | 0.10 mol, 18.9 g | ClCCC(CC=1SC=CC1)=O | C8H9ClOS
reactant | imidazole | 0.22 mol, 15 g | N1C=NC=C1 | C3H4N2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-imidazolyl)-1-(2-thienyl)butanone hydrochloride | Cl.N1(C=NC=C1)CCC(CC=1SC=CC1)=O | InChI=1S/C11H12N2OS.ClH/c14-10(8-11-2-1-7-15-11)3-5-13-6-4-12-9-13;/h1-2,4,6-7,9H,3,5,8H2;1H
